datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[O-:12])C=C1.CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1>>CN(C)C1=CC=C([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([CH:21]=[CH:22][N:23]2CCCC2C(O[Si](C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C+:11]([CH2:10][C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1)[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.C[Si:72](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F>>CN(C)C1=CC=C([CH:20]([CH2:10][C:11](=[O+:12][Si:72](C)(C)C)[C:62]2=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]2F)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:62][C:111](=[O:112])[C-:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2([C:91]3=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C[C:22]1=[C:21]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([C:20]([S-:21])=[N:31]C1=CC=CC=C1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"C[N:12](C)[N:11]=[CH2:10].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[N+:12](C)=[N:11][CH2:10][C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].C[Si:73](C)(C)[O:12]/[CH:11]=[CH:10]/[CH:61]=[CH2:62]>>C[Si:73](C)(C)[O+:12]=[CH:11][CH:10]([CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1)[CH:61]=[CH2:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>Cl[Zn:11]Cl.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10,11=10,20"
"C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2.N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>C[CH:20]([CH:10](C1=CC=C(C#N)C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[Si:63](C)(C)[O:12][C:11](C(F)(F)F)=[CH2:10]>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[CH2:10][C:11](C(F)(F)F)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[O-:10][C:61]#[N:62]>>F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([O:10][C:61]#[N:62])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
